US08247596B2
To a suspension of 17.81 g of (3,3,4,4,4-pentafluorobutylthio)acetonitrile and 0.28 g of sodium tungstate dihydrate in 30 ml of water was added 8.94 ml of 31% aqueous hydrogen peroxide while the suspension was stirred. The temperature of the mixture was raised to 65° C., and 8.94 ml of 31% aqueous hydrogen peroxide was added thereto. The mixture was stirred at 70° C. for 1 hour. In the middle of the reaction, the formation of a deduced sulfoxide compound was confirmed by thin layer chromatography (TLC) analysis. The reaction mixture was cooled to room temperature, and 30 ml of an aqueous sodium sulfite solution was added thereto, followed by extraction with 150 ml of ethyl acetate three times. Organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over sodium sulfate, filtered, and then concentrated under reduced pressure. The residue was crystallized from chloroform:hexane=1:2 to obtain 17.84 g of (3,3,4,4,4-pentafluorobutylsulfonyl)acetonitrile represented by the formula:

reactant | (3,3,4,4,4-pentafluorobutylthio)acetonitrile | 17.81 g | FC(CCSCC#N)(C(F)(F)F)F | C6H6F5NS
reactant | hydrogen peroxide | 8.94 ml | OO | H2O2
reactant | hydrogen peroxide | 8.94 ml | OO | H2O2
reactant | sodium sulfite | 30 ml | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 30 ml | O | H2O
catalyst | sodium tungstate dihydrate | 0.28 g | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | (3,3,4,4,4-pentafluorobutylsulfonyl)acetonitrile | 17.84 g | FC(CCS(=O)(=O)CC#N)(C(F)(F)F)F | C6H6F5NO2S
